US06573263B2
526 mg (2.37 mmol) of 2-(1-hydroxyethyl)-5-phenylpentanoic acid are reacted analogously to Example 39A with 320 mg (2.37 mmol) of 1-hydroxy-1H-benzotriazole, 408 mg (3.16 mmol) of N-ethyldiisopropylamine, 454 mg (6.350 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride and 500 mg (1.58 mmol) of 6-(1-aminoethyl)-3-(1-naphthylmethyl)-1,2,4-triazin-5(4H)-one to give 2-(1-hydroxyethyl)-N-{1-[3-(1-naphthylmethyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}-5-phenylpentanamide.

reactant | 2-(1-hydroxyethyl)-5-phenylpentanoic acid | 2.37 mmol, 526 mg | OC(C)C(C(=O)O)CCCC1=CC=CC=C1 | C13H18O3
reactant | 1-hydroxy-1H-benzotriazole | 2.37 mmol, 320 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethyldiisopropylamine | 3.16 mmol, 408 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 6.350 mmol, 454 mg | Cl.CN(CCCN=C=NCC)C
reactant | 6-(1-aminoethyl)-3-(1-naphthylmethyl)-1,2,4-triazin-5(4H)-one | 1.58 mmol, 500 mg | NC(C)C=1C(NC(=NN1)CC1=CC=CC2=CC=CC=C12)=O | C16H16N4O
product | 2-(1-hydroxyethyl)-N-{1-[3-(1-naphthylmethyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}-5-phenylpentanamide | OC(C)C(C(=O)NC(C)C=1C(NC(=NN1)CC1=CC=CC2=CC=CC=C12)=O)CCCC1=CC=CC=C1 | C29H32N4O3
